US06274585B1
b) 6-(3,4-Difluorophenyl)-1,6-dihydro-2-methoxy-5-methoxycarbonyl-4-methylpyrimidine
A mixture of methyl 2-{(3,4-difluorophenyl)methylene}-3-oxobutyrate (8.8 g, 36.6 mmol), O-methylisourea hydrogen sulfate (9.4 g, 55 mmol), and NaHCO3 (12.3 g, 0.146 mol) in DMF (30 mL) was stirred and heated at 70° C. for 16 hours. The mixture was cooled, diluted with EtOAc (300 mL) and washed with water (5×300 mL), brine (300 mL), and dried (MgSO4). Solvent was evaporated and the crude product was purified by flash column chromatography on silica gel using 10% through 20% EtOAc in hexane as the gradient eluent, to leave the product as an oil (3.82 g, 30.2%); 1H-NMR (CDC13): δ 2.32,2.39 (2 s, 3 H), 3.58, 3.64 (2 s, 3 H), 3.72, 3.85 (2 s, 3 H), 5.55 ( s, 1H), 6.13-7.8 (m, 4 H).

reactant | methyl 2-{(3,4-difluorophenyl)methylene}-3-oxobutyrate | 36.6 mmol, 8.8 g | FC=1C=C(C=CC1F)C=C(C(=O)OC)C(C)=O | C12H10F2O3
reactant | O-methylisourea hydrogen sulfate | 55 mmol, 9.4 g | S(=O)(=O)(O)O.COC(N)=N
reactant | NaHCO3 | 0.146 mol, 12.3 g | C(=O)(O)[O-].[Na+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | 6-(3,4-Difluorophenyl)-1,6-dihydro-2-methoxy-5-methoxycarbonyl-4-methylpyrimidine | 3.82 g, 30.2% | FC=1C=C(C=CC1F)C1C(=C(N=C(N1)OC)C)C(=O)OC | C14H14F2N2O3
